* C:\Users\joa-m\InformesTC\TP5\EJ3\SedraConPablomenos05.asc
XU1 N006 N002 +VCC -VCC VOUT_LOWQ TL084 TL084
R§Ga1 0 N002 330
R§Gb N002 VOUT_LOWQ 1000
R§G41 N006 0 300
R§G1 VOUT_LOWQ N009 750
C3 N009 N006 10.63928748nf
C22 N009 N004 3.2nf
C21 N009 0 6.3676nf
V1 N007 0 SINE(0 1 1K) AC 1
V2 +VCC 0 15
V3 0 -VCC 15
R§Ga2 N002 N004 7.5K
R§G42 N006 N004 7.5K
XU2 N005 N001 +VCC -VCC VOUT_HIGHQ TL084 TL084
R§Ga1_2 0 N001 3.3K
R§Gb_2 N001 VOUT_HIGHQ 90
R§G41_2 N005 0 4.3K
R§G1_2 VOUT_HIGHQ N008 180
C3_2 N008 N005 10.4606545nf
C22_2 N008 N003 6.46971nf
C21_2 N008 0 3.311061938nf
R§Ga2_2 N001 N003 4.7K
R§G42_2 N005 N003 15K
XU3 VOUT_LOWQ N003 +VCC -VCC N003 TL084 TL084
XU9 N007 N004 +VCC -VCC N004 TL084 TL084
.inc "C:\Users\joa-m\InformesTC\TP5\EJ3\TL084\TL084.301"
.inc "C:\Users\joa-m\InformesTC\TP5\EJ3\LM833.lib"
.ac dec 100 20K 500K
.backanno
.end
